US06579883B1
3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one-7-carboxylic acid
A suspension of 0.5 g (1.8 mmol) of 3a-fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 63 ml of acetonitrile-carbon tetrachloride-water (2:1:2) is mixed with 5.9 g (27.6 mmol) of sodium periodate and 0.05 g (0.4 mmol) of ruthenium(IV) oxide, and it is stirred for 4 hours at room temperature. The batch is diluted with water and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is taken up in 0.5 M potassium hydroxide solution. This solution is washed with methyl-tert-butyl ether, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum: 0.31 g of product.

reactant | 3a-fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.8 mmol, 0.5 g | FC12C(NC=3C=C(C=CC3C1CCC2)C=2OC=CC2)=O | C16H14FNO2
reactant | sodium periodate | 27.6 mmol, 5.9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile carbon tetrachloride water | 63 ml | C(C)#N.C(Cl)(Cl)(Cl)Cl.O
solvent | water | O | H2O
catalyst | ruthenium(IV) oxide | 0.4 mmol, 0.05 g | [Ru](=O)=O
product | 3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one-7-carboxylic acid | FC12C(NC=3C=C(C=CC3C1CCC2)C(=O)O)=O | C13H12FNO3
